US06451887B1
2,4-Di-(4-chloro-α-cumyl)phenol
The title compound is prepared according to the procedure of Example 3 by reacting 19 g of phenol with 80 g of 4-chloro-α-methylstyrene to give 53.4 g of the title compound as a white solid. The structure is confirmed by 1Hnmr and mass spectroscopy.

reactant | phenol | 19 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-chloro-α-methylstyrene | 80 g | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
product | 2,4-Di-(4-chloro-α-cumyl)phenol | 53.4 g | ClC1=CC=C(C(C)(C)C2=C(C=CC(=C2)C(C)(C)C2=CC=C(C=C2)Cl)O)C=C1 | C24H24Cl2O
